US05877191
Nitroethane (0.800 mL, 836 mg, 11.1 mmol) and n-butylamine (0.050 mL, 37 mg, 0.51 mmol) were added to a solution of 3-bromo-4-methoxybenzaldehyde (2.00 g, 9.30 mmol) in 2.0 mL of absolute ethanol. The solution was heated in a 95° C. oil bath for 8 h and then stirred overnight at room temperature. The ethanol was evaporated, the residue was stirred with 12 mL of 8% ether in hexane, and the supernatant was decanted. The undissolved material was stirred with 12 mL of 8% ether in hexane, and sufficient toluene was added to bring it into solution at 60° C. The crystals which separated at room temperature were recrystallized again from a solution of hexane (7 mL) and toluene (1.8 mL) at 55° C. cooled to room temperature to give 1-(3-bromo-4-methoxyphenyl)-2-nitropropene as 598 mg of yellow needles. All of the mother liquors were combined and evaporated, and the residue was purified by flash column chromatography on 85 g of silica gel eluting with 25% dichloromethane in hexane to give an additional 791 mg of 1-(3-bromo-4-methoxyphenyl)-2-nitropropene (total isolated yield of 55%). 1H NMR (400 MHz, CDCl3): δ 8.00 (s, 1H), 7.68 (d, 1H, J=2 Hz),7.40 (dd, 1H, J=9, 2 Hz),6.97(d, 1H, J=9Hz), 3.96 (s, 3H), 2.47 (s, 3H). Mass spectrum (NH3CI): m/e=272 (M+1).

reactant | Nitroethane | 11.1 mmol, 0.800 mL, 836 mg | [N+](=O)([O-])CC | C2H5NO2
reactant | n-butylamine | 0.51 mmol, 0.050 mL, 37 mg | C(CCC)N | C4H11N
reactant | 3-bromo-4-methoxybenzaldehyde | 9.30 mmol, 2.00 g | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 1-(3-bromo-4-methoxyphenyl)-2-nitropropene | BrC=1C=C(C=CC1OC)C=C(C)[N+](=O)[O-] | C10H10BrNO3
